US06809108B1
(2R)-1-{(2S,4R)-4-hydroxy-1-(3,3,3-triphenylpropanoyl)pyrrolidin-2-yl}carbonyl-N-((3S)-3-piperidylmethyl)pyrrolidine-2-carboxamide
To 1.65 g of (2R)-1-{(2S,4R)-4-tert-butoxy-1-(3,3,3-triphenylpropanoyl)pyrrolidin-2-yl}carbonyl-N-((3S)-3-piperidylmethyl)pyrrolidine-2-carboxamide, 5 ml of trifluoroacetic acid was added at room temperature, followed by 1 hour's stirring at the same temperature. The reaction liquid was distilled off under reduced pressure, diluted with chloroform, rendered basic with 4N aqueous sodium hydroxide solution, extracted with chloroform and dried over anhydrous sodium sulfate. Distilling the solvent off under reduced pressure, 1.56 g of the title compound was obtained as a white foamy substance.

reactant | (2R)-1-{(2S,4R)-4-tert-butoxy-1-(3,3,3-triphenylpropanoyl)pyrrolidin-2-yl}carbonyl-N-((3S)-3-piperidylmethyl)pyrrolidine-2-carboxamide | 1.65 g | C(C)(C)(C)O[C@@H]1C[C@H](N(C1)C(CC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)C(=O)N1[C@H](CCC1)C(=O)NC[C@@H]1CNCCC1 | C41H52N4O4
reactant | trifluoroacetic acid | 5 ml | FC(C(=O)O)(F)F | C2HF3O2
product | (2R)-1-{(2S,4R)-4-hydroxy-1-(3,3,3-triphenylpropanoyl)pyrrolidin-2-yl}carbonyl-N-((3S)-3-piperidylmethyl)pyrrolidine-2-carboxamide | 1.56 g | O[C@@H]1C[C@H](N(C1)C(CC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)C(=O)N1[C@H](CCC1)C(=O)NC[C@@H]1CNCCC1 | C37H44N4O4
